datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1>>C[C:61]1=[CH:62][N:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCCC3)[CH:45]=[CH:46]2)[CH:11]=[N:12]1 10,11=10,20;12=11,12"
CC1CCC[NH:10]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1 10=20
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1>>CC(C)[C:22](=[CH:21][CH:20]([CH2:10][C+:11]([Si](C)(C)C)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC(C)[C:11]([CH2:10][CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([NH2+:10][NH:61][C:62](C2=CC=CC=C2)=[O:63])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>C[C:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)([CH:20](C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C)[C:71]#[N:72] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1>>C1=CC=C([S:32]([C-:21]([CH2:20][CH:10]2CC2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)C[C:61](=[O:62])[N-:10][C:71](=[O:72])C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[C:61](=[O:62])CC(C)(C)C[C:71]1=[O:72])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
CC(C)(C)[C:62]1=[C:61]([O-:10])[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1.CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61]2=[C:62](C(C)(C)C)[CH:63]=[CH:64][CH:73]=[C:72]2C(C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCOCC2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCOCC2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[C:71]2C=O)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH:11]=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([CH:20]=[O:21])C=C1.CC1=CC(C)=C([N+:61]2=[C-:10][N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1>>CC1=CC(C)=C([N+:61]2=[C:10]([CH:20](C3=CC=CC=C3)[O-:21])[N:71](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20;20,21=21"
